US07598423B2
Synthesis of 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone
A solution of 2,4,-dihydroxyacetophenone (6 g, 39.4 mmol), aqueous 1M sodium hydroxide (41.4 mL, 41.4 mmol) and water (200 mL) is stirred at room temperature. An aqueous 1.6M solution of sodium hypochlorite (32 mL) is added over a 1 hr period. The resulting dark brown solution is stirred 18 hr at room temperature. The reaction mixture is adjusted to a pH of 2-3 with concentrated aqueous hydrochloric acid. The resulting suspension is filtered and washed with water (4×100 mL). The filtered solid was dried under vacuum at 45° C. for 2.5 days to give the title compound (4.8 g, 65%) as a brown solid. LCMS 1 187 M+.

reactant | 2,4,-dihydroxyacetophenone | 39.4 mmol, 6 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | sodium hydroxide | 41.4 mmol, 1M, 41.4 mL | [OH-].[Na+]
reactant | sodium hypochlorite | 32 mL | Cl[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone | 4.8 g, 65% | ClC=1C(=C(C=CC1O)C(C)=O)O | C8H7ClO3
